US06284894B1
To a solution of t-butylnitrite (119 μl, 1.0 mmol) and 2-phenyl-3-brompropene (0.99 g, 5.0 mmol) in CH3CN (0.5 ml) was 3,5-dinitroaniline (92 mg, 0.5 mmol) added during 10 minutes, while maintaining the temperature of the reaction mixture at 23-28° C. At the end of the addition of the aniline extra t-butylnitrite (119 μl, 1.0 mmol) was added to the reaction mixture which then was heated to 35° C. for 5 minutes. The reaction mixture was stirred at 22° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 23:2) succeeded by crystallization from heptane gave 50 mg (35%) of 3,5-dinitro-1-(2-phenyl-2-propenyl)benzene as bright yellow needles. 1H NMR (CDCl3, 400 MHz) δ 8.88, (t, 1H, J=2.1 Hz), 8.42, (d, 2H, J=2.1 Hz), 7.42-7.37, (m, 2H), 7.36-7.24, (m, 3H), 5.65, (s, 1H), 5.22, (d, 1H, J=0.8 Hz), 4.08, (s, 2H).

reactant | t-butylnitrite | 1.0 mmol, 119 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | 2-phenyl-3-brompropene | 5.0 mmol, 0.99 g | C1(=CC=CC=C1)C(=C)CBr | C9H9Br
reactant | 3,5-dinitroaniline | 0.5 mmol, 92 mg | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | aniline | 1.0 mmol, 119 μl | NC1=CC=CC=C1 | C6H7N
solvent | CH3CN | 0.5 ml | CC#N | C2H3N
product | 3,5-dinitro-1-(2-phenyl-2-propenyl)benzene | 50 mg, 35% | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])CC(=C)C1=CC=CC=C1 | C15H12N2O4
